US07214673B2
(S)-2-Phenethyl-piperazine
Combine (S)-1,4-dibenzyl-2-phenethyl-piperazine (5.15 g, 13.90 mmol), ammonium formate (4.38 g, 69.49 mmol), 5% Pd/C (672.5 mg), and ethanol (100 mL). Stir and heat the mixture at reflux. After 3 hours, cool to ambient temperature and remove the catalyst by vacuum filtration through celite. Reduce the filtrate to residue and purify by silica gel chromatography using dichloromethane/7N ammonia in methanol (90:10) to give the title compound as a white solid: mp 116–119° C.; mass spectrum (ion spray): m/z=191.2 (M+1); Analysis for C12H18N2: calcd: C, 75.74; H, 9.53; N, 14.72; found: C, 75.90; H, 9.57; N, 14.59.

reactant | (S)-1,4-dibenzyl-2-phenethyl-piperazine | 13.90 mmol, 5.15 g | C(C1=CC=CC=C1)N1[C@H](CN(CC1)CC1=CC=CC=C1)CCC1=CC=CC=C1 | C26H30N2
reactant | ammonium formate | 69.49 mmol, 4.38 g | C(=O)[O-].[NH4+]
catalyst | Pd/C | 672.5 mg | [Pd] | Pd
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | (S)-2-Phenethyl-piperazine | C(CC1=CC=CC=C1)[C@@H]1NCCNC1 | C12H18N2
